US04628057
(3) (3RS)-3-(1H-Tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline
(3RS)-2-Benzyloxycarbonyl-3-(1H-tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline (0.3 g) is dissolved in acetic acid (1 ml) and thereto is added dropwise a 25% solution of HBr in acetic acid (2 ml). The mixture is stirred at room temperature for 20 minutes, and thereto is added ether. The precipitates are collected by filtration, washed with ether and dried to give the title compound (0.257 g, quantitatively) as pale yellow powder.

reactant | (3RS)-2-Benzyloxycarbonyl-3-(1H-tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline | 0.3 g | C(C1=CC=CC=C1)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1C1=NN=NN1 | C20H18N6O2
reactant | HBr | Br | BrH
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | (3RS)-3-(1H-Tetrazol-5-yl)-1,2,3,4-tetrahydro-β-carboline | N1N=NN=C1C1NCC=2NC3=CC=CC=C3C2C1 | C12H12N6
